US04241069
A mixture of 3 g (10 mmol) of the 2',4'-dichloro flavanone and 27 ml of bis-(dimethylamino)methane was stirred at room temperature; 27 ml of acetic anhydride was added dropwise over 15 minutes. A slight temperature rise occurred. One hour later the reaction was partitioned between 200 ml of ether and 200 ml of cold H2O. The aqueous phase was separated, washed with two 250 ml portions of ether, and discarded. The combined ether extracts were washed with saturated aqueous NaHCO3 solution, dried over anhydrous Na2SO4, filtered and evaporated. The residual oil was chromatographed on 200 g of silica gel, eluting with benzene. This gave 2.5 g of 2',4'-dichloro-3-methylene flavanone, isolated as a solid, m.p. 86°-87° C.

reactant | 2',4'-dichloro flavanone | 10 mmol, 3 g | ClC1=C(C2OC3=CC=CC=C3C(C2)=O)C=CC(=C1)Cl | C15H10Cl2O2
reactant | bis-(dimethylamino)methane | 27 ml | CN(C)CN(C)C | C5H14N2
reactant | acetic anhydride | 27 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2',4'-dichloro-3-methylene flavanone | 2.5 g | ClC1=C(C2OC3=CC=CC=C3C(C2=C)=O)C=CC(=C1)Cl | C16H10Cl2O2
